US07595405B2
A mixture of 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (10.9 g, 45.2 mmol), iso-amyl nitrite (36.5 ml, 271.4 mmol) and diiodomethane (23 ml, 271.4 mmol) was stirred at room temperature for 1 hour. The mixture was then heated to 65° C. and kept at this temperature for 8 hours. The reaction mixture to room temperature and then added to a stirred solution of piperidine/CH3CN (V:V=90 ml:90 ml). A vigorous exothermic reaction ensued. The excess volatile reagents were removed by rotary evaporation. The residue was diluted with ethyl acetate, washed with 10% hydrochloric acid, water, brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography, eluting with n-hexane, followed by n-hexane/ethyl acetate (20:1), giving 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester as white yellow solid (10.5 g, 66%).

reactant | 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 45.2 mmol, 10.9 g | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
reactant | iso-amyl nitrite | 271.4 mmol, 36.5 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | diiodomethane | 271.4 mmol, 23 ml | ICI | CH2I2
solvent | piperidine CH3CN | 90 ml | N1CCCCC1.CC#N
product | 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 10.5 g, 66% | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
